US04191839
Toluene, 40 ml, acetic anhydride, 10 ml. dibenzoyl peroxide, 0.3 gram and trifluoroacetic acid, 0.2 grams, were reacted with oxygen (1 atm) at 105° C. for 30 hours. After this time 2% of the toluene had been converted but no benzylidene diacetate was formed. Products were benzyl acetate and benzaldehyde in approximately equal amounts.

reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | dibenzoyl peroxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | oxygen | O=O | O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | benzylidene diacetate | C(C)(=O)OC(C1=CC=CC=C1)OC(C)=O | C11H12O4
